US08207199B2
To a solution of 3-(dimethylamino)-2-(4-fluorophenyl)acrylaldehyde (3.0 g) in ethanol (30 mL) was added hydrazine monohydrate (0.90 mL), followed by heating and refluxing for 3 hours. After leaving to be cooled, the solvent was evaporated under reduced pressure until the amount of the reaction liquid was reduced to about a half. Water (20 mL) was added thereto, and the resulting solid was collected by filtration and dried under reduced pressure to obtain 4-(4-fluorophenyl)-1H-pyrazole (2.44 g) as a yellow solid.

reactant | 3-(dimethylamino)-2-(4-fluorophenyl)acrylaldehyde | 3.0 g | CN(C=C(C=O)C1=CC=C(C=C1)F)C | C11H12FNO
reactant | hydrazine monohydrate | 0.90 mL | O.NN
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(4-fluorophenyl)-1H-pyrazole | 2.44 g | FC1=CC=C(C=C1)C=1C=NNC1 | C9H7FN2
